US07612114B2
6-{2-[3-Fluoro-4-(2-piperidin-1-ylethoxy)phenylamino]-4-hydroxyphenyl}-5,8-dihydronaphthalen-2-ol
Synthesized from 5-methoxy-2-(6-methoxy-1,1-dimethyl-1,4-dihydronaphthalen-2-yl)phenylamine and 1-[2-(4-bromo-2-fluorophenoxy)ethyl]piperidine according to an analogous synthetic method to Example 116, [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl][5-methoxy-2-(6-methoxy-1,1-dimethyl-1,4-dihydronaphthalen-2-yl)phenyl]amine (439 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (303 mg).

reactant | 5-methoxy-2-(6-methoxy-1,1-dimethyl-1,4-dihydronaphthalen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C=1C(C2=CC=C(C=C2CC1)OC)(C)C | C20H23NO2
reactant | 1-[2-(4-bromo-2-fluorophenoxy)ethyl]piperidine | BrC1=CC(=C(OCCN2CCCCC2)C=C1)F | C13H17BrFNO
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl][5-methoxy-2-(6-methoxy-1,1-dimethyl-1,4-dihydronaphthalen-2-yl)phenyl]amine | 439 mg | FC=1C=C(C=CC1OCCN1CCCCC1)NC1=C(C=CC(=C1)OC)C=1C(C2=CC=C(C=C2CC1)OC)(C)C | C33H39FN2O3
product | 6-{2-[3-Fluoro-4-(2-piperidin-1-ylethoxy)phenylamino]-4-hydroxyphenyl}-5,8-dihydronaphthalen-2-ol | 303 mg | FC=1C=C(C=CC1OCCN1CCCCC1)NC1=C(C=CC(=C1)O)C=1CC=2C=CC(=CC2CC1)O | C29H31FN2O3
